US05594023
3-Amino-5-chloro-1-[4-(N',N'-diethylureido)benzenesulfonyl]-1,3-dihydro-3-(2-methoxyphenyl)indol-2-one
This compound is prepared according to the procedure described in EXAMPLE 1 from 0.266 g of 3-amino-5-chloro-1,3-dihydro-3-(2-methoxyphenyl)indol-2-one and 0.280 g of 4-(N',N'-diethylureido)benzenesulfonyl chloride. The expected product is obtained after crystallization from a DCM/iso ether mixture. m=0.160 g. M.p.=214°-217° C.

reactant | 3-amino-5-chloro-1,3-dihydro-3-(2-methoxyphenyl)indol-2-one | 0.266 g | NC1(C(NC2=CC=C(C=C12)Cl)=O)C1=C(C=CC=C1)OC | C15H13ClN2O2
reactant | 4-(N',N'-diethylureido)benzenesulfonyl chloride | 0.280 g | C(C)N(C(NC1=CC=C(C=C1)S(=O)(=O)Cl)=O)CC | C11H15ClN2O3S
product | 3-Amino-5-chloro-1-[4-(N',N'-diethylureido)benzenesulfonyl]-1,3-dihydro-3-(2-methoxyphenyl)indol-2-one | NC1(C(N(C2=CC=C(C=C12)Cl)S(=O)(=O)C1=CC=C(C=C1)NC(=O)N(CC)CC)=O)C1=C(C=CC=C1)OC | C26H27ClN4O5S
